US09403804B2
c) 1-(4-Amino-3-bromo-phenyl)-cyclohexane carbonitrile
The title compound was prepared from 1-(4-amino-phenyl)-cyclohexane carbonitrile (as prepared in the previous step) by bromination with NBS according to the procedure in Example 4, step (b), replacing CH3CN with CH2Cl2. 1H-NMR (CDCl3; 400 MHz): δ 7.49 (d, 1H, J=2.0 Hz), 7.23 (dd, 1H, J=8.4, 2.0 Hz), 6.76 (d, 1H, J=8.4 Hz), 2.16-2.08 (m, 2H), 1.90-1.73 (m, 8H).

reactant | 1-(4-amino-phenyl)-cyclohexane carbonitrile | NC1=CC=C(C=C1)C1(CCCCC1)C#N | C13H16N2
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(4-Amino-3-bromo-phenyl)-cyclohexane carbonitrile | NC1=C(C=C(C=C1)C1(CCCCC1)C#N)Br | C13H15BrN2
